US06008213
a) 3-Benzyl4-(trifluoromethanesulfonyloxy)anisole
Trifluoromethanesulfonic anhydride (10.0 mL, 60 mmol) was added over 3 min to a solution of 2-benzyl-4-methoxyphenol (10.71 g, 50 mmol; prepared according to J. Am. Chem. Soc. 1949, 71, 64) and anhydrous 2,6-lutidine (12.0 mL, 100 mmol) in anhydrous CH2Cl2 (250 mL) at -78° C. under argon. The reaction was stirred at -78° C. for 0.5 h, then was warmed to RT. After 1 h, the reaction was diluted with hexanes (250 mL) and washed sequentially with 1.0 N HCl (2×100 mL), 1.0 N NaOH (2×50 mL), H2O (100 mL) and brine (50 mL). Drying (Na2SO4), concentration, and silica gel chromatography (10% EtOAc/hexanes) gave the title compound as a light yellow solid (16.65 g, 96%): TLC Rf 0.51 (10% EtOAc/hexanes); 1H NMR (250 MHz, CDCl3) δ 7.10-7.40 (m, 6H), 6.77 (dd, J=9.0, 3.1 Hz, 1H), 6.66 (d, J=3.1Hz, 1H), 4.03 (s, 2H), 3.73 (s, 3H); FTIR (CCl4) 1492, 1423, 1405, 1249, 1216, 1161, 1144, 1039, 869 cm-1 ; MS (ES) m/e 369 (M+Na)+, 364.0 (M+NH4)+, 347.0 (M+H)+.

reactant | Trifluoromethanesulfonic anhydride | 60 mmol, 10.0 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 2-benzyl-4-methoxyphenol | 50 mmol, 10.71 g | C(C1=CC=CC=C1)C1=C(C=CC(=C1)OC)O | C14H14O2
reactant | 2,6-lutidine | 100 mmol, 12.0 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 3-Benzyl4-(trifluoromethanesulfonyloxy)anisole | 16.65 g, 96% | C(C1=CC=CC=C1)C=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)OC | C15H13F3O4S
